US04861791
A mixture of 80 g of methyl 4-hydroxybenzoate and 120 ml of ethanolamine was heated at 150° C. for five hours during which time 14.2 ml of methanol was distilled off. The excess ethanolamine was removed in vacuo, and the residue was treated with two 150 ml portions of chloroform. The chloroform was removed in vacuo and the residual oil dissolved in acetone from which the product crystallized to give 45.3 g of N-(2-hydroxyethyl)-4-hydroxybenzamide.

reactant | methyl 4-hydroxybenzoate | 80 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | ethanolamine | 120 ml | C(O)CN | C2H7NO
solvent | methanol | 14.2 ml | CO | CH4O
product | N-(2-hydroxyethyl)-4-hydroxybenzamide | 45.3 g | OCCNC(C1=CC=C(C=C1)O)=O | C9H11NO3
